US07030267B2
To a solution of cyano-cyclohexylidene-acetic acid ethyl ester (1.37 g, 7.09 mmol) in 30 mL acetonitrile was added nitromethane (1.92 mL, 35.5 mmol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (1.06 mL, 7.09 mmol) resulting in an orange solution. The reaction was stirred for 2.5 hours, then partitioned between ethyl ether (Et2O) and 1N hydrochloric acid (HCl) (aq). The phases were separated, and the organic phase washed with brine, dried over magnesium sulfate (MgSO4), and concentrated. Flash chromatography of the residue (5% ethyl acetate (EtOAc)/hexanes) afforded 1.1 g (75%) of 1-cyano-spiro[2.5]octane-1-carboxylic acid ethyl ester as a colorless oil. 1H NMR (CDCl3) δ 4.22 (m, 2H), 1.77 (d, J=5.1 Hz, 1H), 1.42–1.72 (m, 10H), 1.40 (d, J=5.1 Hz, 1H), 1.30 (t, J=7.1 Hz, 3H). 13C NMR δ 166.40, 118.60, 62.72, 40.20, 34.67, 29.01, 28.75, 25.69, 25.54, 25.28, 24.66, 14.38. LRMS: m/z 208.0 (M+1). IR: 2239, 1732 cm−1. Anal. Calcd for C12H17NO2: C, 69.54; H, 8.27; N, 6.76. Found: C, 69.41; H, 8.33; N, 6.75.

reactant | cyano-cyclohexylidene-acetic acid ethyl ester | 7.09 mmol, 1.37 g | C(C)OC(C(=C1CCCCC1)C#N)=O | C11H15NO2
reactant | nitromethane | 35.5 mmol, 1.92 mL | [N+](=O)([O-])C | CH3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.09 mmol, 1.06 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-cyano-spiro[2.5]octane-1-carboxylic acid ethyl ester | 1.1 g, 75% | C(C)OC(=O)C1(CC12CCCCC2)C#N | C12H17NO2
